US04677129
(a) 1-(4-aminophenyl)-5-methyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
1.0 g of 5% palladium-on-carbon catalyst is added to a solution of 10.0 g of 5-methyl-1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione in 200 ml of ethyl acetate and the whole is hydrogenated under normal pressure and at 30°-35° in a hydrogen atmosphere. When the absorption of hydrogen is complete, the reaction mixture is diluted with 100 ml of methylene chloride and freed of catalyst by filtration over HYFLO Super-Cel®. The solvent is evaporated off in vacuo, and the residue is recrystallised from an ethyl acetate/n-hexane mixture, yielding the title compound in the form of white crystals having a melting point of 135°-136°.

reactant | 5-methyl-1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 10.0 g | CC12C(N(C(C(C1)(C2)C2=CC=C(C=C2)[N+](=O)[O-])=O)CCC)=O | C16H18N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-aminophenyl)-5-methyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)(C2)C)=O)CCC)=O | C16H20N2O2
